US08183239B2
2-(1-{4-[2-(3,5-Dimethyl-isoxazol-4-yl)-acetylamino]-2-fluoro-phenyl}-piperidin-4-yl)-N,N-diethyl-2-phenyl-acetamide
A mixture of (3,5-dimethyl-isoxazol-4-yl)-acetic acid (1.0 mmol) and DMF (0.050 mL) in DCE (10 mL) was treated with (COCl)2 (10 mmol), dropwise. The mixture was stirred at rt for 1 h and was concentrated. The residue was diluted with DCE (10 mL) and treated with 2-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-N,N-diethyl-2-phenyl-acetamide (0.30 mmol) and TEA (2.0 mmol). After 16 h, the mixture was diluted with H2O (10 mL) and extracted. The organic layer was concentrated and the residue was purified by PTLC to provide the title compound (87 mg, 56%). MS (ESI): mass calcd. for C30H37FN4O3, 520.28; m/z found, 521.4 [M+H]+. 1H NMR (CDCl3): 7.40-7.20 (m, 6H), 6.96 (dd, J=8.6, 1.6, 1H), 6.83 (t, J=9.0, 1H), 3.50-3.10 (m, 9H), 2.70-2.60 (m, 1H), 2.52-2.42 (m, 1H), 2.38 (s, 3H), 2.30-2.20 (m, 4H), 2.08-1.98 (m, 1H), 1.50-1.15 (m, 3H), 1.15-1.03 (m, 6H).

reactant | (3,5-dimethyl-isoxazol-4-yl)-acetic acid | 1.0 mmol | CC1=NOC(=C1CC(=O)O)C | C7H9NO3
reactant | DMF | 0.050 mL | CN(C)C=O | C3H7NO
reactant | (COCl)2 | 10 mmol | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | 2-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-N,N-diethyl-2-phenyl-acetamide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCC(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C23H30FN3O
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | H2O | 10 mL | O | H2O
product | 2-(1-{4-[2-(3,5-Dimethyl-isoxazol-4-yl)-acetylamino]-2-fluoro-phenyl}-piperidin-4-yl)-N,N-diethyl-2-phenyl-acetamide | 87 mg, 56% | CC1=NOC(=C1CC(=O)NC1=CC(=C(C=C1)N1CCC(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F)C | C30H37FN4O3
